US07547691B2
A mixture of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (0.10 g, 0.27 mmol), racemic 3-(2-aminoethyl)-pyrrolidine-1-carboxylic acid benzyl ester (0.14 g, 0.55 mmol) and triethylamine (0.11 mL, 0.81 mmol) in 1,4-dioxane (1.5 mL) in a sealed reaction vessel is stirred at 90° C. overnight. The reaction is cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution, the organic layer is separated, dried over Na2SO4, filtered and concentrated. The crude solid is washed with ethyl acetate, dried under vacuum to provide 3-{2-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-pyrrolidine-1-carboxylic acid benzyl ester as a white solid (90 mg, 56% yield). A stirred solution of this intermediate (16 mg, 0.028 mmol) in TFA (0.5 mL) and water (0.1 mL) is heated in a sealed tube at 100° C. for 20 minutes. At room temperature the mixture is concentrated and the residue is dissolved in methanol, passed through a SCX column, washed with methanol and 2 M NH3/methanol to give the crude product. It is further passed through a short pad of silica gel to afford the title compound as a solid (11 mg, 90% yield). ES+(m/z) 442 (35Cl) and 444 (37Cl) [M+H].

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.27 mmol, 0.10 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | racemic 3-(2-aminoethyl)-pyrrolidine-1-carboxylic acid benzyl ester | 0.55 mmol, 0.14 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CCN | C14H20N2O2
reactant | triethylamine | 0.81 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-{2-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-pyrrolidine-1-carboxylic acid benzyl ester | 90 mg, 56% yield | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl | C30H30ClN5O3S
